US07732466B2
(a) 2-tert.-butoxycarbonylamino-3-methoxy-propionic acid
1.90 g (16.0 mmol) 2-amino-3-methoxy-propionic acid in 30 ml dioxane and 12.5 ml of water are combined with a solution of 7.10 g (32.5 mmol) di-tert.-butyldicarbonate in 20 ml 1,4-dioxane and stirred for 4.5 hours at 40° C. At ambient temperature 20 ml 2-molar aqueous sodium hydroxide solution is added and the mixture is stirred overnight. After filtering the filtrate is extracted with ethyl acetate. The aqueous phase is adjusted to pH 3.5 with acetic acid and extracted with ethyl acetate. The combined organic phases are washed with semisat. and sat. sodium chloride solution, dried over magnesium sulphate and evaporated down i. vac.

reactant | 2-amino-3-methoxy-propionic acid | 16.0 mmol, 1.90 g | NC(C(=O)O)COC | C4H9NO3
reactant | di-tert.-butyldicarbonate | 32.5 mmol, 7.10 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2-molar, 20 ml | [OH-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 12.5 ml | O | H2O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-tert.-butoxycarbonylamino-3-methoxy-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)COC | C9H17NO5
